US04551465
2-Ethyl-1-[3-[4-[1-(2-methoxyphenyl)-1-hydroxypropyl]-phenoxy]-propyl]-piperidine
To 125 ml. of a 0.8 molar ethereal ethyl lithium solution a solution of 15.3 g. of 2-methoxy-4'-[3-(2-ethyl-piperid-1-yl)-propoxy]-benzophenone in 50 ml. of tetrahydrofuran is added dropwise, in argon atmosphere, with stirring at -15° C. The reaction mixture is stirred at room temperature for another two hours, whereupon it is decomposed with a saturated aqueous ammonium chloride solution under cooling. The aqueous phase is extracted with ether. The combined organic phases are washed with a saturated aqueous sodium chloride solution, and dried over anhydrous potassium carbonate. The solvent is distilled off under reduced pressure, and the residue is fractionated. 7.6 g. of the title compound are obtained. The physical characteristics of the product are identical with those given in Example 1.

reactant | ethyl lithium | 0.8 molar | C(C)[Li]
reactant | 2-methoxy-4'-[3-(2-ethyl-piperid-1-yl)-propoxy]-benzophenone | COC1=C(C(=O)C2=CC=C(C=C2)OCCCN2C(CCCC2)CC)C=CC=C1 | C24H31NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Ethyl-1-[3-[4-[1-(2-methoxyphenyl)-1-hydroxypropyl]-phenoxy]-propyl]-piperidine | C(C)C1N(CCCC1)CCCOC1=CC=C(C=C1)C(CC)(O)C1=C(C=CC=C1)OC | C26H37NO3
